US06140343
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-chlorocarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester.
cis-4-((3,5-Bis-trifluoromethyl-benzyl)-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (prepared in a manner analogous to the procedures described for Examples 3A-3E) (146 mg, 0.28 mmol) was dissolved in 2 mL of a 1.93M phosgene solution in toluene (3.9 mmol). After heating at reflux for 1.5 h, the sample was concentrated in vacuo to afford the title product (125 mg, 76%). 1H NMR (CDCl3) δ 1.2-1.6 (m, 7H), 2.2-2.4 (m, 1H), 4.2-4.6 (m, 4H), 5.2-5.6 (m, 2H), 7.1 (s, 1H), 7.5-7.9 (m, 5H).

reactant | cis-4-((3,5-Bis-trifluoromethyl-benzyl)-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C23H21F9N2O2
reactant | toluene | 3.9 mmol | C1(=CC=CC=C1)C | C7H8
reactant | phosgene | 1.93M | C(=O)(Cl)Cl | CCl2O
product | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-chlorocarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 125 mg, 76% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C24H20ClF9N2O3
